US07064131B2
[6-(9-Chloro-3-methyl-4oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl)-acetic acid ethyl ester
Add powdered K2CO3 (0.661 g, 4.8 mmol) to a solution of (6-{[3-(2-Chloro-6-fluorophenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-pyridin-2-yl)-acetic acid ethyl ester (0.5 g, 1.2 mmol) in DMF (20 ml) under N2 and stirred overnight. Dilute with EtOAc, wash (H2O then brine), dry (MgSO4), filter, and concentrate. Column chromatography (silica gel, hexanes/EtOAc gradient) gives the title compound (0.376 g, 79%). Mass Spectrum (FIA) (m/z) 398.1 [M+1]

reactant | K2CO3 | 4.8 mmol, 0.661 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (6-{[3-(2-Chloro-6-fluorophenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-pyridin-2-yl)-acetic acid ethyl ester | 1.2 mmol, 0.5 g | C(C)OC(CC1=NC(=CC=C1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl)=O | C20H17ClFN3O4
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [6-(9-Chloro-3-methyl-4oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl)-acetic acid ethyl ester | 0.376 g, 79% | C(C)OC(CC1=NC(=CC=C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O | C20H16ClN3O4
